US07138425B2
2-[3-[6-(3,4-Dimethoxybenzylamino)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 76 g), from 2-[3-(6-chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester (50 mg, 0.09 mmol) and 3,4-dimethoxybenzylamine (23 mg, 0.14 mmol) the title compound was obtained (17 mg, 33%). 1H NMR (DMSO) δ 9.14(t, 1H), 8.44(dd, 1H), 8.36(m, 2H), 8.29(m, 2H), 8.11(d, 1H), 7.99(dd, 1H), 7.91(d, 1H), 7.85–7.76(m, 2H), 6.97(d, 1H), 6.92–6.85(m, 2H), 4.45(d, 2H), 3.73(s, 3H), 3.71(s, 3H). MS 576.2 m/z (M−H)−.

reactant | 2-[3-(6-chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(N(C(C2=CC1)=O)C1=CC(=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(=O)Cl)=O | C30H17ClN2O6
reactant | 3,4-dimethoxybenzylamine | 0.14 mmol, 23 mg | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | 2-[3-[6-(3,4-Dimethoxybenzylamino)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC=1C=C(CNC2=CC3=C(N=C(O3)C=3C=C(C=CC3)N3C(C4=CC=C(C=C4C3=O)C(=O)O)=O)C=C2)C=CC1OC | C31H23N3O7
